US07968570B2
A solution of 4-chloro-2-iodo-6-methyl-benzoic acid (5.9 g, 20.0 mmol) in acetone (50 mL) was treated with anhydrous K2CO3 (4.14 g, 30 mmol) followed by methyl iodide (1.5 g, 24 mmol). The reaction mixture was stirred at 70° C. for 2 h. GC-MS and TLC indicated that the reaction was completed. The solids were removed by filtration and the filtrate was evaporated under reduced pressure. Silica gel column chromatography of the resulting material using 10% ethyl acetate in hexanes afforded 4-chloro-2-iodo-6-methyl-benzoic acid methyl ester (2.91 g, 47%). GC-MS: m/z 310 (M)+, 279 (M−31)+.

reactant | 4-chloro-2-iodo-6-methyl-benzoic acid | 20.0 mmol, 5.9 g | ClC1=CC(=C(C(=O)O)C(=C1)C)I | C8H6ClIO2
reactant | K2CO3 | 30 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 24 mmol, 1.5 g | CI | CH3I
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 4-chloro-2-iodo-6-methyl-benzoic acid methyl ester | 2.91 g, 47% | COC(C1=C(C=C(C=C1C)Cl)I)=O | C9H8ClIO2
